US05470845
A. 4-(6-Iodohexyl)[1,1'-biphenyl]
To a solution of 7.00 g (28 mmol, 1.0 eq) of Part A(2) biphenylhexanol in 30 mL of dry THF were added 8.66 g (33 mmol, 1.2 eq) of triphenylphosphine and 4.50 g (66 mmol, 2.4 eq) of imidazole. To the resulting homogeneous solution was added dropwise a solution of 8.38 g (33 mmol, 2.4 eq) of iodine in 40 mL of dry THF over 25 min. After 45 min, the reaction was diluted with Et2O and washed with 10% aqueous sodium bisulfite, brine and dried (MgSO4). The solution was filtered and the volume was reduced approximately by 50%. Silica gel (35 g) was added and the remainder of the solvent was removed. The product adsorbed onto silica gel was loaded onto a pre-equilibrated column (hexanes) of silica gel (20 g) and eluted with hexanes. Fractions containing clean product were pooled and concentrated to afford 9.40 g (94%) of the title compound as a clear, colorless oil.

reactant | biphenylhexanol | C=1(C(=CC=CC1)CCCCCCO)C1=CC=CC=C1 | C18H22O
reactant | triphenylphosphine | 33 mmol, 8.66 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 66 mmol, 4.50 g, 2.4 eq | N1C=NC=C1 | C3H4N2
reactant | iodine | 33 mmol, 8.38 g, 2.4 eq | II | I2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 4-(6-Iodohexyl)[1,1'-biphenyl] | 9.40 g, 94% | ICCCCCCC1=CC=C(C=C1)C1=CC=CC=C1 | C18H21I
